US08202873B2
3′-(4-Fluorophenyl)-4-[3-(1,3,5-trimethyl-1H-pyrazol-4-yl)-propyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride
Dissolve 3′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.300 g, 1.16 mmol) in DCE (15 mL). Add 3-(1,3,5-trimethyl-1H-pyrazol-4-yl)-propionaldehyde (0.232 g, 1.39 mmol), and stir at room temperature for 10 min. Add sodium triacetoxyborohydride (0.369 g, 1.74 mmol) and stir at room temperature for 18 hr. Purify by SCX chromatography, followed by silica gel chromatography, eluting with 45:45:10 DCM:hexanes:ethanol, to give the free base of the title compound (368 mg, 78%). Dissolve the free base (0.362 g, 0.888 mmol) in methanol and add a solution of ammonium chloride (0.047 g, 0.888 mmol) in a minimal volume of methanol. Shake for 3 hr. at room temperature and concentrate to give the title compound (395 mg, 100%). MS (ES): m/z=409 [M+H]+.

reactant | 3′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 1.16 mmol, 0.300 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | 3-(1,3,5-trimethyl-1H-pyrazol-4-yl)-propionaldehyde | 1.39 mmol, 0.232 g | CN1N=C(C(=C1C)CCC=O)C | C9H14N2O
reactant | sodium triacetoxyborohydride | 1.74 mmol, 0.369 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCE | 15 mL | ClCCCl | C2H4Cl2
product | 3′-(4-Fluorophenyl)-4-[3-(1,3,5-trimethyl-1H-pyrazol-4-yl)-propyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride | 368 mg, 78% | Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CCCC=1C(=NN(C1C)C)C | InChI=1S/C23H29FN6.ClH/c1-17-21(18(2)28(3)27-17)5-4-12-29-13-15-30(16-14-29)23-22(25-10-11-26-23)19-6-8-20(24)9-7-19;/h6-11H,4-5,12-16H2,1-3H3;1H
